US06682785B2
4-heptylcyclohexanone [16618-75-0];
4-(4-methylcyclohexyl)cyclohexanone [151772-66-6]; 4-(4-ethylcyclohexyl)cyclohexanone [150763-46-5];

reactant | 4-(4-methylcyclohexyl)cyclohexanone | CC1CCC(CC1)C1CCC(CC1)=O | C13H22O
reactant | 4-(4-ethylcyclohexyl)cyclohexanone | C(C)C1CCC(CC1)C1CCC(CC1)=O | C14H24O
product | 4-heptylcyclohexanone | C(CCCCCC)C1CCC(CC1)=O | C13H24O
